US05965589
A mixture of 2-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamaldehyde (2.00 g), 2,4-thiazolidinedione (1.10 g), piperidine (0.267 g) and acetic acid (15 ml) was heated under reflux for 2.5 hours. The reaction mixture was concentrated under reduced pressure. Crystals (1.64 g) of 5-[2-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamilidene]-2,4-thiazolidinedione which was precipitated by addition of saturated aqueous sodium bicarbonate solution was collected by filtration and washed with ether. The crystals were dissolved in tetrahydrofuran (150 ml), and 5% palladium-carbon (1.64 g) was added. The mixture was subjected to catalytic hydrogenation at room temperature at a hydrogen pressure of 3.4 kgf/cm2. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give crystals. The crystals were recrystallized from dichloromethane-methanol to give 5-[3-[2-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-propyl]-2,4-thiazolidinedione (0.742 g, 34%). White crystals, mp. 173-174° C.

reactant | 2-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamaldehyde | 2.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=C(C=CC=O)C=CC=C1 | C20H17NO3
reactant | 2,4-thiazolidinedione | 1.10 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.267 g | N1CCCCC1 | C5H11N
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-[3-[2-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-propyl]-2,4-thiazolidinedione | 0.742 g, 34% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=C(C=CC=C1)CCCC1C(NC(S1)=O)=O | C23H22N2O4S
